2193-08-08 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2193-8-7**] 07:20 PM
 ENDOSCOPY - At [**2193-8-7**] 08:29 PM -showed varices and ulcers in
   lower third of esophagus.  Blood at fundus.  Friability, erythema in
   stomach consistent with portal hypertensive gastropathy.  No gastric
   varices.  No banding.
   -transfused 1 more unit of PRBCs due to HCT drop from 30.2 to 26
   overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-7**] 10:12 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-8-7**] 09:06 PM
   Fentanyl - [**2193-8-7**] 09:06 PM
   Morphine Sulfate - [**2193-8-8**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-8**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 100 (95 - 112) bpm
   BP: 111/70(80) {103/55(47) - 130/82(92)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.5 kg (admission): 90.8 kg
           Total In:
                                                                  3,820 mL
                                                                    664 mL
   PO:
           50 mL
   TF:
   IVF:
                                                                  1,202 mL
                                                                    184 mL
   Blood products:
                                                                    118 mL
                                                                    430 mL
   Total out:
                                                                  4,125 mL
                                                                    620 mL
   Urine:
                                                                    425 mL
                                                                    445 mL
   NG:
   Stool:
   175 mL
   Drains:
   Balance:
                                                                   -305 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (500 - 520) mL
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: ///18/
   Ve: 10.2 L/min
   Physical Examination
   Gen: Well appearing, NAD.
   Resp: Crackles at bases bilaterally. Mild wheezes throughout.
   CV: RRR. No murmurs.
   Abd: Markedly distended with spider angioma seen. + BS. Mildly tender
   to palpation
   Extremities: Warm, well perfused. No edema. [**Location (un) 4525**] erythema.
   Labs / Radiology
   270 K/uL
   9.3 g/dL
   115 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.2 mEq/L
   51 mg/dL
   106 mEq/L
   137 mEq/L
   26.0 %
   10.5 K/uL
        [image002.jpg] Peritoneal fluid: WBC 117; RBC 3783; Polys 29;
   Monos 30; Lyphs 20; Protein 0.9; Glucose 121; LDH 157
   AFP 6.4
   BCx, UCx, Peritoneal Cx pending
   HBV VL pending
                             [**2193-8-7**]  04:15 PM
                             [**2193-8-7**]  09:41 PM
                             [**2193-8-8**]  04:11 AM
   WBC
   9.6
   10.5
   Hct
   31.3
   30.2
   26.0
   Plt
   281
   270
   Cr
   1.9
   1.7
   Glucose
   117
   115
   Other labs: PT / PTT / INR:14.8/29.8/1.3, ALT / AST:157/294, Alk Phos /
   T Bili:187/3.1, Albumin:4.0 g/dL, LDH:264 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   57 y .o. M with hepatitis B cirrhosis c/b portal vein thrombosis
   without intervention per his GI doctor, encephalopathy, and varices,
   COPD, and hypertension, transferred from [**Hospital6 1082**] for
   management of his upper and lower GI bleeding. EGD on [**8-7**] shows portal
   hypertensive gastropathy. MELD score 19.
   .# Hypertensive gastropathy: EGD showed esophageal varices and ulcers
   most likely secondary to hypertensive gastropathy.
   -continue octreotide gtt
   -q 6 h HCTs -goal transfuse for HCT < 25
   -PPI 40mg IV bid until tolerating po
   -continue Ceftriaxone 1g qd for SBP primary prophylaxis
   - active T&S and crossmatch 4 units
   - large bore PIVs
   - IVFs
   # Hepatic Encephalopathy: Has a mild flap on admission with elevated
   ammonia from OSH
   - lactulose 30 mL TID
   - monitor exam
   .
   # Hepatitis B Cirrhosis: c/b portal vein thrombosis without
   intervention. Per GI doctor, this appears to be an acute decompensation
   of his liver disease, may be due to portal venous thrombosis.  LFTs all
   elevated today. RUQ US showed cirrhotic liver, occluded portal vein.
   Questionable echogenic areas around portal vein that could represent
   mass.
   - trend LFTs, direct bilirubin
   - send hepatitis B VL
   - appreciate hepatology consult: Cx patient tonight
   -paracentesis: not consistent with SBP
   -CT or MRI to eval for hepatocellular carcinoma
prefer MRI given ARF,
   unlikely to tolerate IV contrast for CT
   - monitor I/O
   - daily weights
   - morphine for pain control
   - attempt to get OSH records and radiology CD
   -no need for paracentesis today. Will discuss indication for
   paracentesis with hepatology
   # Acute Renal Failure: Elevated from 0.8 to 1.9. Down to 1.7 this AM
   Consider prerenal etiology [**1-19**] nausea, emesis, diarrhea vs.
   hepatorenal. FeUrea of 28, and improving with IVF.
   -Continue IV fluids
   - avoid nephrotoxins
   - trend Cr
   - watch UOP -goal 0.5cc/kg/hr
   # COPD: followed by Dr. [**Last Name (STitle) 2045**].
   -obtain ABG
   - maintain O2 sats 88-93%
   - continue albuterol, advair, atrovent, Fluticasone-Salmeterol,
   tiotropium bromide. Increase frequency of nebulizers given wheezing on
   exam today.
   - continue supplemental oxygen
   # HTN: currently normotensive
   - hold antihypertensives during GI bleed
   # ? IBS: followed by Dr. [**First Name (STitle) 1604**]
   - continue dicyclomine
   # Depression:
   - continue Mirtazapine
   # Anxiety:
   - hold anxiolytics due to sedating effects in setting of hepatic
   encephalopathy
   # FEN: IVFs / replete lytes prn / NPO except meds
   # Access: 3 20 gauge PIVs, 16 gauge PIV, 18 gauge PIV. Rectal tube,
   Foley.
   # PPx: IV PPI gtt / hold heparin SQ in GI bleed / pneumoboots /
   lactulose
   # Code: FULL  (confirmed with pt)
   # Dispo: ICU care
   # Comm: with patient; Mother [**Name (NI) **] [**Telephone/Fax (1) 4531**] (per pt, his HCP);
   Sister [**Name (NI) **] [**Telephone/Fax (1) 4532**]
   ICU Care
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-7**] 05:01 PM
   16 Gauge - [**2193-8-7**] 05:01 PM

2193-08-08 09:11:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2193-8-7**] 07:20 PM
 INVASIVE VENTILATION - START [**2193-8-7**] 08:18 PM
 ENDOSCOPY - At [**2193-8-7**] 08:29 PM
 BLOOD CULTURED - At [**2193-8-7**] 09:28 PM
 INVASIVE VENTILATION - STOP [**2193-8-7**] 10:17 PM
 BLOOD CULTURED - At [**2193-8-8**] 04:15 AM
   EGD last PM (intubated for the procedure) --  2 Esophogeal ulcers,
   esophogeal varices, portal hypertensive gastropathy
   Extubated following procedure.
   Offers no new complaints this AM, continues with diffuse abd discomfort
   --> relieved with morphine.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-7**] 10:12 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-8-7**] 09:06 PM
   Fentanyl - [**2193-8-7**] 09:06 PM
   Morphine Sulfate - [**2193-8-8**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-19**] Mild
   Pain location: Abdomen
   Flowsheet Data as of  [**2193-8-8**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 100 (95 - 112) bpm
   BP: 111/70(80) {103/55(47) - 130/82(92)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.5 kg (admission): 90.8 kg
           Total In:
                                                                  3,820 mL
                                                                    871 mL
   PO:
           50 mL
   TF:
   IVF:
                                                                  1,202 mL
                                                                    215 mL
   Blood products:
                                                                    118 mL
                                                                    607 mL
   Total out:
                                                                  4,125 mL
                                                                    620 mL
   Urine:
                                                                    425 mL
                                                                    445 mL
   NG:
   Stool:
   175 mL
   Drains:
   Balance:
                                                                   -305 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (500 - 520) mL
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: ///18/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   270 K/uL
   115 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.2 mEq/L
   51 mg/dL
   106 mEq/L
   137 mEq/L
   26.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2193-8-7**]  04:15 PM
                             [**2193-8-7**]  09:41 PM
                             [**2193-8-8**]  04:11 AM
   WBC
   9.6
   10.5
   Hct
   31.3
   30.2
   26.0
   Plt
   281
   270
   Cr
   1.9
   1.7
   Glucose
   117
   115
   Other labs: PT / PTT / INR:14.8/29.8/1.3, ALT / AST:157/294, Alk Phos /
   T Bili:187/3.1, Albumin:4.0 g/dL, LDH:264 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   GI  bleed, cirrhosis
   GI BLEED -- evaluation to date suggests upper source, probable portal
   hypertensive gastropathy rather than esophogeal varices.
   ANEMIA -- secondary to blood loss; maintain Hct > 30.
   ABDOMINAL PAIN -- attributed predominately to expanding ascites,
   possible portal vein thrombosis.  No evidence for SBP. Possible liver
   mass --> evaluation in progress.
   ASCITES -- worsening attributed to portal vein thrombosis.  Additional
   imaging pending, consider repeat large volume paracentesis.
   RENAL FAILURE -- acute, attributed to large volume paracentesis or
   recent dye load (CT).  Monitor BUN,
   COPD -- mild, maintain MDI.
   HYPOXEMIA -- unlikely attributed to COPD (mild), but may be attributed
   to hepato-pulmonary disease (Hepatopulmonary syndrome).  Maintain SaO2
   >88%.
   NUTRITIONAL SUPPORT -- NPO pending evaluation.  Hope to advance diet.
   ENCEPHALOPATHY -- hepatic; continue lactulose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-7**] 05:01 PM
   16 Gauge - [**2193-8-7**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-08-09 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient had an MRI performed at [**Hospital6 **] recently.
   Reviewed by the GI tumor board here -think most likely HCC. Just told
   this AM of diagnosis by hepatology fellow.  No options for treatment,
   transplant, or chemoembolization.
 BLOOD CULTURED - At [**2193-8-8**] 08:09 PM
 URINE CULTURE - At [**2193-8-8**] 08:09 PM
   HCT: 33 (10am)>>31 (4pm)>>32 this AM
   ECHO
normal, unchanged from prior study in [**2192-8-18**]. EF 55%
   Increased WBC, T 100.9, therefore cultured. CXR showed no change.
   Complains of abdominal pain. Relieved with morphine temporarily.
   Says breathing is unchanged from baseline. Though has a nonproductive
   cough. Looks uncomfortable/wheezing with coughing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-8**] 10:39 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-8-8**] 08:10 PM
   Morphine Sulfate - [**2193-8-9**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 95 (93 - 108) bpm
   BP: 116/63(75) {100/53(65) - 151/78(98)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.5 kg (admission): 90.8 kg
             Total In:
                                                                  1,222 mL
                                                                    127 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    565 mL
                                                                    127 mL
   Blood products:
                                                                    607 mL
   Total out:
                                                                  2,038 mL
                                                                  1,535 mL
   Urine:
                                                                  1,563 mL
                                                                    335 mL
   NG:
   Stool:
                                                                    175 mL
                                                                  1,200 mL
   Drains:
   Balance:
                                                                   -816 mL
                                                                 -1,407 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 92%
   ABG: 7.32/40/91.[**Numeric Identifier 96**]/18/-5
   PaO2 / FiO2: 263
   Physical Examination
   Gen: Face tent in place, NAD.
   CV: RRR. No murmurs.
   Lungs: Decreased at bases. Mild expiratory wheezes.
   Abd: Distended. Diffusely tender to palpation. +BS.
   Extremities: Warm, well perfused. No edema. [**Location (un) 4525**] erythema.
   Labs / Radiology
   343 K/uL
   10.7 g/dL
   117 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   53 mg/dL
   105 mEq/L
   136 mEq/L
   32.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2193-8-7**]  04:15 PM
                             [**2193-8-7**]  09:41 PM
                             [**2193-8-8**]  04:11 AM
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
   WBC
   9.6
   10.5
   16.3
   14.8
   Hct
   31.3
   30.2
   26.0
   33
   31.5
   30.6
   32.0
   Plt
   [**Telephone/Fax (3) 4603**]43
   Cr
   1.9
   1.7
   1.7
   1.7
   TCO2
   22
   Glucose
   117
   115
   114
   117
   Other labs: PT / PTT / INR:14.7/29.6/1.3, ALT / AST:122/174, Alk Phos /
   T Bili:206/5.5, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.6 g/dL, LDH:281 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   57 y .o. M with hepatitis B cirrhosis c/b portal vein thrombosis
   without intervention per his GI doctor, encephalopathy, and varices,
   COPD, and hypertension, transferred from [**Hospital6 1082**] for
   management of his upper and lower GI bleeding. EGD on [**8-7**] shows portal
   hypertensive gastropathy. MELD score 21 (19 yesterday). Now with new
   diagnosis of hepatocellular carcinoma.
   # Hepatocellular carcinoma: No treatment options currently available.
   -family meeting today at 2pm, run by GI.
   -Oncology consulted re: experimental treatments, perhaps at [**Hospital **].
   -Social Work consult
   .# Hypertensive gastropathy: EGD showed esophageal varices and ulcers
   most likely secondary to hypertensive gastropathy.   Bleeding is of
   uncertain etiology.  Possibly from esophageal varices.  Per GI, if
   continues to bleed, consider banding.  TIPS and shunt are not
   feasible.  HCT stable for 24 hours>30.
    -continue octreotide gtt
   -[**Hospital1 **] HCTs - transfuse for HCT < 25
   -PPI 40mg IV bid until tolerating po
   -continue Ceftriaxone 1g qd for SBP primary prophylaxis
    - active T&S and crossmatch 4 units
   - large bore PIVs
   - IVFs
   # Hepatitis B Cirrhosis: c/b portal vein thrombosis without
   intervention. RUQ US showed cirrhotic liver, occluded portal vein.
   Questionable echogenic areas around portal vein that could represent
   mass.  Patient had MRI at [**Hospital6 **].  Concern for HCC.  His
   primary GI doctor Dr. [**First Name (STitle) 1604**] is following and will talk to the patient
   today about the diagnosis.
   - trend LFTs, direct bilirubin -elevated LFTs may be from newly
   activated hep B, ischemic liver, or from hepatoma
   - hepatitis B VL pending
   - appreciate hepatology and GI recs: treatment of portal vein
   thrombosis is too risky
   -paracentesis [**8-7**]: not consistent with SBP
   -          morphine for pain control
   # Infectious: Elevated WBC and fever: Paracentesis negative for SBP.
   Currently on Ceftriaxone for SBP prophylaxis.  If spikes again, start
   Vanc, Zosyn for SBP.
   -follow up blood cultures.
   -Send C.diff
   # Hepatic Encephalopathy: Has a mild flap on admission with elevated
   ammonia from OSH
    - lactulose 30 mL TID
   - monitor exam
   # Acute Renal Failure: Elevated from 0.8 to 1.9 on admission. Stable at
   1.7 this AM Consider prerenal etiology [**1-19**] nausea, emesis, diarrhea vs.
   hepatorenal. FeUrea of 28, and improving with IVF.  Stable.
   -encourage po liquids
   - avoid nephrotoxins
   - trend Cr
   - watch UOP -goal 0.5cc/kg/hr
   # COPD: followed by Dr. [**Last Name (STitle) 2045**].
   -obtain ABG
   - maintain O2 sats 88-93%
   - continue albuterol, advair, atrovent, Fluticasone-Salmeterol,
   tiotropium bromide. Increase frequency of nebulizers given wheezing on
   exam today.
   - continue supplemental oxygen -currently on Face tent FiO2 35-50%
   # HTN: currently normotensive - hold antihypertensives during GI bleed
   # ? IBS: followed by Dr. [**First Name (STitle) 1604**] - continue dicyclomine
   # Depression:
   - continue Mirtazapine
    # Anxiety:
   - hold anxiolytics due to sedating effects in setting of hepatic
   encephalopathy
   # FEN: Advance diet to clear liquids / replete lytes prn
   # Access: 3 20 gauge PIVs, 16 gauge PIV, 18 gauge PIV. Rectal tube,
   Foley. Patient uncomfortable with foley.  Will consider discontinuing
   foley depending on outcomes of family meeting. Monitor strict Is/Os.
   # PPx: IV PPI gtt / hold heparin SQ in GI bleed / pneumoboots /
   lactulose
   # Code: FULL  (confirmed with pt)
   # Dispo: ICU care
   # Comm: with patient; Mother [**Name (NI) **] [**Name (NI) 4530**] [**Telephone/Fax (1) 4531**] (per pt, his
   HCP); Sister [**Name (NI) **] [**Name (NI) 4604**] [**Telephone/Fax (1) 4585**]
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-7**] 05:01 PM
   16 Gauge - [**2193-8-7**] 05:01 PM

2193-08-09 11:44:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-8-8**] 08:09 PM
 BLOOD CULTURED - At [**2193-8-8**] 08:09 PM
 URINE CULTURE - At [**2193-8-8**] 08:09 PM
   Outside imaging studies reviewed in multidisciplinary conference,
   highly suggestive of infiltrative process such as HCC.
   Pt. reserved today, but no increased encephalopathy.
   No clinical evidence for bleeding.
   Remains with abd pain, diffuse
 responsive to iv morphine.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-8**] 10:39 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-8-8**] 08:10 PM
   Morphine Sulfate - [**2193-8-9**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-19**] Mild
   Pain location: abdominal
   Flowsheet Data as of  [**2193-8-9**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 98 (93 - 107) bpm
   BP: 135/73(113) {100/53(65) - 151/78(113)} mmHg
   RR: 13 (13 - 23) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95.5 kg (admission): 90.8 kg
             Total In:
                                                                  1,222 mL
                                                                    203 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    565 mL
                                                                    203 mL
   Blood products:
                                                                    607 mL
   Total out:
                                                                  2,038 mL
                                                                  1,625 mL
   Urine:
                                                                  1,563 mL
                                                                    425 mL
   NG:
   Stool:
                                                                    175 mL
                                                                  1,200 mL
   Drains:
   Balance:
                                                                   -816 mL
                                                                 -1,422 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 91%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: diffuse, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   343 K/uL
   117 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   53 mg/dL
   105 mEq/L
   136 mEq/L
   32.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2193-8-7**]  04:15 PM
                             [**2193-8-7**]  09:41 PM
                             [**2193-8-8**]  04:11 AM
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
   WBC
   9.6
   10.5
   16.3
   14.8
   Hct
   31.3
   30.2
   26.0
   33
   31.5
   30.6
   32.0
   Plt
   [**Telephone/Fax (3) 4603**]43
   Cr
   1.9
   1.7
   1.7
   1.7
   TCO2
   22
   Glucose
   117
   115
   114
   117
   Other labs: PT / PTT / INR:14.7/29.6/1.3, ALT / AST:122/174, Alk Phos /
   T Bili:206/5.5, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.6 g/dL, LDH:281 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   GI bleed
   GI BLEED -- probable portal hypertensive gastropathy, less likely
   esophogeal varices.  Clinically stable.
   CIRRHOSIS -- Hep B;  Hepatology evaluation in progress.
   LFT -- rising T. bili, likely reflecting portal vein thrombosis and
   infiltrating hepatic process (?HCC)
   LIVER MASS -- high suspicion and concern for hepatocellular carcinoma
   (HCC); alpha-fetal protein not elevated.  Likely would account for
   recent decompensation (thrombosis, ascites).  Hepatology and Oncology
   to assess.
   PORTAL VEIN THROMBOSIS -- no plans for further intervention.
   ASCITES -- gradual increasing in girth.  Consider therapeutic
   paracentesis.
   PAIN MANAGEMENT -- continue with Morphine prn
   NUTRITIONAL SUPPORT -- advance diet as tolerated.
   FAMILY MEETING today to discuss course and define direction of future
   care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-7**] 05:01 PM
   16 Gauge - [**2193-8-7**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-08-10 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient was told of terminal HCC diagnosis yesterday.  Family meeting
   held with GI, hepatology, social work, and palliative care. Onc has
   told him that there are no options for therapy including clinical
   trials.  Palliative care has recommended changing medication regimen,
   and also considering abdominal port to relieve pressure.
   Tolerating clear liquids well.
   Continues to have moderate abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-9**] 09:26 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2193-8-9**] 03:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-10**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 95 (93 - 110) bpm
   BP: 121/74(85) {98/56(71) - 135/87(113)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.5 kg (admission): 90.8 kg
             Total In:
                                                                    706 mL
                                                                    289 mL
   PO:
                                                                    120 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    486 mL
                                                                    129 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  2,455 mL
                                                                  1,628 mL
   Urine:
                                                                    605 mL
                                                                    128 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                 -1,749 mL
                                                                 -1,339 mL
   Respiratory support
   O2 Delivery Device: Face tent FiO2 40%
   SpO2: 93%  12L
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   337 K/uL
   10.5 g/dL
   127 mg/dL
   2.4 mg/dL
   15 mEq/L
   4.2 mEq/L
   60 mg/dL
   102 mEq/L
   132 mEq/L
   31.2 %
   9.3 K/uL
         [image002.jpg]
                             [**2193-8-7**]  04:15 PM
                             [**2193-8-7**]  09:41 PM
                             [**2193-8-8**]  04:11 AM
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
                             [**2193-8-9**]  04:14 PM
                             [**2193-8-10**]  03:12 AM
   WBC
   9.6
   10.5
   16.3
   14.8
   9.3
   Hct
   31.3
   30.2
   26.0
   33
   31.5
   30.6
   32.0
   30.8
   31.2
   Plt
   [**Telephone/Fax (3) 4603**]43
   337
   Cr
   1.9
   1.7
   1.7
   1.7
   2.4
   TCO2
   22
   Glucose
   117
   115
   114
   117
   127
   Other labs: PT / PTT / INR:15.1/31.8/1.3, ALT / AST:93/115, Alk Phos /
   T Bili:206/5.0, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.6 g/dL, LDH:281 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   57 y .o. M with hepatitis B cirrhosis c/b portal vein thrombosis
   without intervention per his GI doctor, encephalopathy, and varices,
   COPD, and hypertension, transferred from [**Hospital6 1082**] for
   management of his upper and lower GI bleeding. EGD on [**8-7**] shows portal
   hypertensive gastropathy. Now with new diagnosis of hepatocellular
   carcinoma, no options for treatment. .
   # Hepatocellular carcinoma: No treatment options currently available.
   -palliative care
would like to be discharged to Mother
s home
   -pain control: currently on MS Contin and morphine for breakthrough
   pain.  Will have to titrate this up to better control pain.
   .# Hypertensive gastropathy: EGD showed esophageal varices and ulcers
   most likely secondary to hypertensive gastropathy.   Bleeding is of
   uncertain etiology.  Possibly from esophageal varices.  Per GI, if
   continues to bleed, consider banding.  TIPS and shunt are not
   feasible.  HCT stable for 24 hours>30.
    -continue octreotide gtt
   -qd HCTs - transfuse for HCT < 25
   -PPI 40mg IV bid until tolerating po
   -continue Ceftriaxone 1g qd for SBP primary prophylaxis
    - active T&S and crossmatch 4 units
   - large bore PIVs
   # Hepatitis B Cirrhosis: c/b portal vein thrombosis without
   intervention. RUQ US showed cirrhotic liver, occluded portal vein.
   Questionable echogenic areas around portal vein that could represent
   mass.  Patient had MRI at [**Hospital6 **].  Concern for HCC.  His
   primary GI doctor Dr. [**First Name (STitle) 1604**] is following and will talk to the patient
   today about the diagnosis.
   - trend LFTs, direct bilirubin -elevated LFTs may be from newly
   activated hep B, ischemic liver, or from hepatoma
   - hepatitis B VL pending
   - appreciate hepatology and GI recs: treatment of portal vein
   thrombosis is too risky
   -paracentesis [**8-7**]: not consistent with SBP -consider abdominal port
   for symptom relief
   # Pain control: Per palliative care, started on MS Contin, Reglan, and
   Morphine elixir for breakthrough pain
    # Hepatic Encephalopathy: Has a mild flap on admission with elevated
   ammonia from OSH
    - lactulose 30 mL change to [**Hospital1 **]
   - monitor exam
   # Acute Renal Failure: Elevated from 0.8 to 1.9 on admission. Now upto
   2.4. Most likely secondary to hepato-renal syndrome, not responding to
   IV fluids, though could be post renal source given massive ascites.
   - avoid nephrotoxins
    - trend Cr
   -patient was down 1750mL yesterday. Perhaps this was too aggressive.
   -goal fluids today even
   # COPD: followed by Dr. [**Last Name (STitle) 2045**].
   - maintain O2 sats 88-93%
   - continue albuterol, advair, atrovent, Fluticasone-Salmeterol,
   tiotropium bromide. Increase frequency of nebulizers given wheezing on
   exam today.
   - continue supplemental oxygen -currently on Face tent FiO2 35-50%
   # HTN: currently normotensive - hold antihypertensives during GI bleed
   # ? IBS: followed by Dr. [**First Name (STitle) 1604**] - continue dicyclomine
   # Depression:
   - continue Mirtazapine, Ativan as needed for anxiety
    # Anxiety:
   - hold anxiolytics due to sedating effects in setting of hepatic
   encephalopathy
   # FEN: Advance diet to clear liquids / replete lytes prn
   # Access: 3 20 gauge PIVs, 16 gauge PIV, 18 gauge PIV. Rectal tube,
   Foley. Patient uncomfortable with foley.  Will consider discontinuing
   foley depending on outcomes of family meeting. Monitor strict Is/Os.
   # PPx: IV PPI gtt / hold heparin SQ in GI bleed / pneumoboots /
   lactulose
   # Code: FULL currently  -this has been addressed with patient
   yesterday. Not ready to address this currently. Has deferred to his
   sister to make decision regarding code status. Full code not medically
   indicated given palliative care.
   # Dispo: Palliative care. Eventual discharge home.
   # Comm: with patient; Mother [**Name (NI) **] [**Name (NI) 4530**] [**Telephone/Fax (1) 4531**] (per pt, his
   HCP); Sister [**Name (NI) **] [**Name (NI) 4604**] [**Telephone/Fax (1) 4585**]
   ICU Care
   Nutrition:
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   16 Gauge - [**2193-8-7**] 05:01 PM
   Code status: Full code

2193-08-11 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Urine output low.
   Gave albumin and started midodrine with minimal response.
   Pain better controlled on MS contin 60mg [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-10**] 10:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-8-10**] 08:22 AM
   Morphine Sulfate - [**2193-8-10**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-11**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 84 (82 - 114) bpm
   BP: 100/53(64) {89/48(59) - 121/71(89)} mmHg
   RR: 7 (7 - 21) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 90.8 kg
             Total In:
                                                                  1,808 mL
                                                                    314 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  1,008 mL
                                                                    314 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  2,498 mL
                                                                    765 mL
   Urine:
                                                                    298 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    700 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///16/
   Physical Examination
   Gen- Somewhat more confused today but NAD and Aox3.  Increased
   asterixis
   CV- RRR no M/R/G
   Pulm- Decreased at bases. Mild expiratory wheezes.
   Abd- Distended. Diffusely tender to palpation but improved. +BS.
   Extremities: Warm, well perfused. No edema. [**Location (un) 4525**] erythema. +asterixis
   Labs / Radiology
   251 K/uL
   8.9 g/dL
   111 mg/dL
   3.0 mg/dL
   16 mEq/L
   4.0 mEq/L
   69 mg/dL
   105 mEq/L
   136 mEq/L
   27.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2193-8-7**]  09:41 PM
                             [**2193-8-8**]  04:11 AM
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
                             [**2193-8-9**]  04:14 PM
                             [**2193-8-10**]  03:12 AM
                             [**2193-8-11**]  04:14 AM
                             [**2193-8-11**]  05:30 AM
   WBC
   10.5
   16.3
   14.8
   9.3
   13.6
   Hct
   30.2
   26.0
   33
   31.5
   30.6
   32.0
   30.8
   31.2
   27.1
   Plt
   [**Telephone/Fax (3) 4684**]37
   251
   Cr
   1.7
   1.7
   1.7
   2.4
   3.0
   TCO2
   22
   Glucose
   115
   114
   117
   127
   111
   Other labs: PT / PTT / INR:16.5/34.5/1.5, ALT / AST:65/90, Alk Phos / T
   Bili:171/5.5, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:4.2 g/dL, LDH:206 IU/L, Ca++:8.5 mg/dL, Mg++:2.7 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
   57 y .o. M with hepatitis B cirrhosis c/b portal vein thrombosis
   without intervention per his GI doctor, encephalopathy, and varices,
   COPD, and hypertension, transferred from [**Hospital6 1082**] for
   management of his upper and lower GI bleeding. EGD on [**8-7**] shows portal
   hypertensive gastropathy. Now with new diagnosis of hepatocellular
   carcinoma, no options for treatment.
   # Hepatocellular carcinoma: No treatment options currently available.
   -palliative care
would like to be discharged to Mother
s home, but per
   nurse mother states she is unable to care for him and thought he would
   go to Nursing home
   -pain control: currently on MS Contin and morphine for breakthrough
   pain.
   .# Hypertensive gastropathy: EGD showed esophageal varices and ulcers
   most likely secondary to hypertensive gastropathy.   Bleeding is of
   uncertain etiology.  Possibly from esophageal varices.  Per GI, if
   continues to bleed, consider banding.  TIPS and shunt are not
   feasible.  HCT with slight drop today to 27.
    -continue octreotide gtt
   -[**Hospital1 **] HCTs - transfuse for HCT < 25
   -PPI 40mg IV bid until tolerating po
   -continue Ceftriaxone 1g qd for SBP primary prophylaxis
    - active T&S and crossmatch 4 units
   - large bore PIVs
   # Hepatitis B Cirrhosis: c/b portal vein thrombosis without
   intervention. RUQ US showed cirrhotic liver, occluded portal vein.
   - trend LFTs, direct bilirubin -elevated LFTs may be from newly
   activated hep B, ischemic liver, or from hepatoma
   - hepatitis B VL pending
   - appreciate hepatology and GI recs: treatment of portal vein
   thrombosis is too risky
   -paracentesis [**8-7**]: not consistent with SBP -consider abdominal port
   for symptom relief
   - Has a mild asterixis today
    - lactulose 30 mL Increase back to TID
   - monitor exam
   # Pain control: Per palliative care, started on MS Contin, Reglan, and
   Morphine elixir for breakthrough pain
   # Acute Renal Failure: Elevated from 0.8 to 1.9 on admission. Now up to
   2.4. Poor urine output. Most likely secondary to hepato-renal syndrome,
   not responding to IV fluids, though could be post renal source given
   massive ascites.
   - avoid nephrotoxins
    - trend Cr
   -patient with significant GI losses
   - Can give 90gm albumin x 1 (given twice with minimal improvement)
   - started Midodrine 7.5 TID
   -goal fluids today even
   # COPD: followed by Dr. [**Last Name (STitle) 2045**].
   - maintain O2 sats 88-93%
   - continue albuterol, advair, atrovent, Fluticasone-Salmeterol,
   tiotropium bromide.
   - continue supplemental oxygen -currently on Face tent FiO2 75%
   # HTN: currently normotensive - hold antihypertensives during GI bleed
   # ? IBS: followed by Dr. [**First Name (STitle) 1604**] - continue dicyclomine
   # Depression:
   - continue Mirtazapine, Ativan as needed for anxiety
   # FEN: Advance diet to clear liquids / replete lytes prn
   # Access: 3 20 gauge PIVs, 16 gauge PIV, 18 gauge PIV. Rectal tube,
   Foley. Patient uncomfortable with foley.  Will consider discontinuing
   foley depending on outcomes of family meeting. Monitor strict Is/Os.
   # PPx: IV PPI gtt / hold heparin SQ in GI bleed / pneumoboots /
   lactulose
   # Code: DNR/DNI confirmed with patient
   # Dispo: Palliative care. Eventual discharge home.
   # Comm: with patient; Mother [**Name (NI) **] [**Name (NI) 4530**] [**Telephone/Fax (1) 4531**] (per pt, his
   HCP); Sister [**Name (NI) **] [**Name (NI) 4604**] [**Telephone/Fax (1) 4585**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-10**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   57 yr old hx of COPD, HBV cirrhosis, recently found to have HCC
   o/n
 urine output < 30 cc, bolused with 500 cc + 250 cc, then albumin,
   midodrine.
   Pain better controlled yesterday. FiO2 requirements higher, 70% face
   mask, sats 90% range. Labs significant for HCO3 now 16, Hct 27.1
   (down), creat 3.0
   Exam
 significant for asterixis, few crackles at bases, HS regular,
   abdomen severely distended but soft, nontender
   In/outs - 1.8L  out 2.5 L.   Meds
 octreotide drip, Advair/Spiriva,
   Remeron, dicyclamine, CFTX 1 gm daily, phos, Morphine SR 60 [**Hospital1 **],
   midodrine 7.5 TID, morphine IV 4 mg
   Impression
 hx as above
   1)       HCC - no surgical/medical options. Appreciate palliative
   care
s input.
   2)       Massive ascites
 therapeutic paracentesis
   3)       Pain
 will decrease IV morphine
   4)       Acute renal failure
 question of prerenal (negative balance)
   vs hepatorenal vs compartment syndrome (ascites)
   5)       Hypoxic respiratory failure
 due to massive ascites
   6)       Disposition
 will ask palliative care to arrange hospice care
   in AM. Will need to address making CMO.
   35 minutes of critical care time. Patient will stay in ICU. DNR
   ------ Protected Section Addendum Entered By:[**Name (NI) 1140**] [**Last Name (NamePattern1) 1135**], MD
   on:[**2193-8-11**] 10:05 ------

2193-08-12 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Rapidly increasing creatinine (0.8 on admission, 3.4 yesterday pm ??
   this am) concerning for hepatorenal vs. compartment syndrome from
   ascites.   Urine output unclear because his foley became disconnected
   last night.
   Increasingly uncomfortable, large ascites, patient refused therapeutic
   paracentesis.
   Increasing encephalopathy, now with asterixis.
   Family meeting yesterday to discuss making patient CMO.  Pt. wished to
   talk to Dr. [**First Name (STitle) 1604**] this morning about it before making any final
   decisions.  also, his PCP [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 274**] will be coming by this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-8-11**] 08:58 AM
   Morphine Sulfate - [**2193-8-12**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-12**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 89 (81 - 113) bpm
   BP: 111/60(72) {83/40(43) - 155/72(107)} mmHg
   RR: 8 (6 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 90.8 kg
             Total In:
                                                                  1,146 mL
                                                                    578 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    726 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                     20 mL
   Urine:
                                                                    225 mL
                                                                     20 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -279 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   Labs / Radiology
   251 K/uL
   8.9 g/dL
   112 mg/dL
   3.4 mg/dL
   15 mEq/L
   3.8 mEq/L
   73 mg/dL
   101 mEq/L
   131 mEq/L
   28.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2193-8-8**]  04:11 AM
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
                             [**2193-8-9**]  04:14 PM
                             [**2193-8-10**]  03:12 AM
                             [**2193-8-11**]  04:14 AM
                             [**2193-8-11**]  05:30 AM
                             [**2193-8-11**]  04:38 PM
   WBC
   10.5
   16.3
   14.8
   9.3
   13.6
   Hct
   26.0
   33
   31.5
   30.6
   32.0
   30.8
   31.2
   27.1
   28.6
   Plt
   [**Telephone/Fax (3) 4684**]37
   251
   Cr
   1.7
   1.7
   1.7
   2.4
   3.0
   3.4
   TCO2
   22
   Glucose
   115
   114
   117
   127
   111
   112
   Other labs: PT / PTT / INR:16.5/34.5/1.5, ALT / AST:65/90, Alk Phos / T
   Bili:171/5.5, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:4.2 g/dL, LDH:206 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   57 y .o. M with hepatitis B cirrhosis c/b portal vein thrombosis ,
   encephalopathy, and varices, COPD, and hypertension, transferred from
   [**Hospital6 1082**] for management of his upper and lower GI
   bleeding. EGD on [**8-7**] shows portal hypertensive gastropathy. Now with
   end stage liver disease [**1-19**] HCC, and worsening renal function.
   # Hepatocellular carcinoma: No treatment options currently available.
    Clinical worsening over the weekend.
   -palliative care
would like to be discharged to Mother
s home, but per
   nurse mother states she is unable to care for him and thought he would
   go to Nursing home.  Will meet with Dr. [**First Name (STitle) 1604**] today to discuss CMO.
   -pain control: was on MS Contin but now not taking PO.  Continue
   morphine for breakthrough pain.  Continues to be uncomfortable but did
   not want therapeutic paracentesis yesterday.  Will ask again today.
   # Hypertensive gastropathy: EGD showed esophageal varices and ulcers
   most likely secondary to hypertensive gastropathy.   Bleeding is of
   uncertain etiology.  Possibly from esophageal varices.  Per GI, if
   continues to bleed, consider banding.  TIPS and shunt are not
   feasible.  HCT now stable, no sign of bleeding.
    -decrease octreotide gtt
   -daily HCT (which can be stopped if CMO) - transfuse for HCT < 25
   -PPI 40mg IV bid until tolerating po
   -continue Ceftriaxone 1g qd for SBP primary prophylaxis, has increasing
   WBC but no obvious source.  Concern for SBP despite lack of fever and
   diagnostic tap last week without sign of SBP.  Will monitor today and
   consider broadening coverage.
    - active T&S and crossmatch 4 units
   -          large bore PIVs
   # Acute Renal Failure: Rapidly increasing creatinine (0.4 on admission,
   up to 3.4 this morning.  It appeared that he wasn
t making urine last
   night, but actually his foley had become disconnected. Now Most likely
   secondary to hepato-renal syndrome vs. pre-renal vs. compartment
   syndome from ascites.  Albumin given with minimal improvement.
   -attempt therapeutic paracentesis if patient is agreeable.
   - very gentle fluid bolus given concern for extravascular fluid
   accumulation.
   - avoid nephrotoxins
   - trend Cr
   - continue Midodrine 7.5 TID
   -consider bladder pressure to eval for compartment syndrome.
   # Hepatitis B Cirrhosis: c/b portal vein thrombosis without
   intervention. RUQ US showed cirrhotic liver, occluded portal vein.
   Has multpiple stigmata of cirrhosis including palmar erythema, caput
   medusae, telangietasias.
   - Increasing LFTs, T. Bili, Hep B viral load is undetetable.  Likely
   [**1-19**] to HCC.
   - appreciate hepatology and GI recs: treatment of portal vein
   thrombosis is too risky
   -          lactulose 30ml TID
   -          worsening encephalopathy, concern for ability to consent for
   CMO.  Monitor neuro status.  Family meeting.
   -
   # Pain control:
   -f/u Per palliative care recs, while taking PO was started on MS
   Contin, Reglan, and Morphine elixir for breakthrough pain.  Now on IV
   morphine.
   # COPD: followed by Dr. [**Last Name (STitle) 2045**].
   - maintain O2 sats 88-93%
   - continue albuterol, advair, atrovent, Fluticasone-Salmeterol,
   tiotropium bromide.
   - continue supplemental oxygen -currently on Face tent FiO2 75%
   # HTN: currently normotensive - hold antihypertensives
   # ? IBS: followed by Dr. [**First Name (STitle) 1604**] - continue dicyclomine
   # Depression:
   - continue Mirtazapine, Ativan as needed for anxiety
   # FEN: Advance diet to clear liquids / replete lytes prn
   # Access: 3 20 gauge PIVs, 16 gauge PIV, 18 gauge PIV. Rectal tube,
   Foley. Patient uncomfortable with foley.  Will consider discontinuing
   foley depending CMO status decision today. Monitor strict Is/Os.
   # PPx: IV PPI gtt / hold heparin SQ in GI bleed / pneumoboots /
   lactulose
   # Code: DNR/DNI confirmed with patient
   # Dispo: Will decide on CMO today, hopefully to nursing home with
   hospice.
   # Comm: with patient; Mother [**Name (NI) **] [**Name (NI) 4530**] [**Telephone/Fax (1) 4531**] (per pt, his
   HCP); Sister [**Name (NI) **] [**Name (NI) 4604**] [**Telephone/Fax (1) 4585**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-10**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   57 yr old hx of COPD, HBV cirrhosis, recently found to have HCC
   o/n
 urine output < 30 cc, bolused with 500 cc + 250 cc, then albumin,
   midodrine.
   Pain better controlled yesterday. FiO2 requirements higher, 70% face
   mask, sats 90% range. Labs significant for HCO3 now 16, Hct 27.1
   (down), creat 3.0
   Exam
 significant for asterixis, few crackles at bases, HS regular,
   abdomen severely distended but soft, nontender
   In/outs - 1.8L  out 2.5 L.   Meds
 octreotide drip, Advair/Spiriva,
   Remeron, dicyclamine, CFTX 1 gm daily, phos, Morphine SR 60 [**Hospital1 **],
   midodrine 7.5 TID, morphine IV 4 mg
   Impression
 hx as above
   1)       HCC - no surgical/medical options. Appreciate palliative
   care
s input.
   2)       Massive ascites
 therapeutic paracentesis
   3)       Pain
 will decrease IV morphine
   4)       Acute renal failure
 question of prerenal (negative balance)
   vs hepatorenal vs compartment syndrome (ascites)
   5)       Hypoxic respiratory failure
 due to massive ascites
   6)       Disposition
 will ask palliative care to arrange hospice care
   in AM. Will need to address making CMO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-10**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-12 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience worsening renal failure.
   Continues to experience abdominal pain.
   More encephalopathic this AM.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-11**] 10:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2193-8-12**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-23**] Moderate
   Pain location: Abdominal pain
   Flowsheet Data as of  [**2193-8-12**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 86 (86 - 104) bpm
   BP: 105/69(72) {91/50(59) - 155/72(107)} mmHg
   RR: 10 (6 - 16) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 90.8 kg
             Total In:
                                                                  1,120 mL
                                                                    669 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    160 mL
   Urine:
                                                                    225 mL
                                                                     60 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -305 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///14/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: diffuse, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not oriented to place or time, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   279 K/uL
   113 mg/dL
   3.4 mg/dL
   14 mEq/L
   3.9 mEq/L
   75 mg/dL
   103 mEq/L
   134 mEq/L
   29.5 %
   17.1 K/uL
        [image002.jpg]
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
                             [**2193-8-9**]  04:14 PM
                             [**2193-8-10**]  03:12 AM
                             [**2193-8-11**]  04:14 AM
                             [**2193-8-11**]  05:30 AM
                             [**2193-8-11**]  04:38 PM
                             [**2193-8-12**]  05:07 AM
   WBC
   16.3
   14.8
   9.3
   13.6
   17.1
   Hct
   33
   31.5
   30.6
   32.0
   30.8
   31.2
   27.1
   28.6
   29.5
   Plt
   [**Telephone/Fax (3) 4703**]51
   279
   Cr
   1.7
   1.7
   2.4
   3.0
   3.4
   3.4
   TCO2
   22
   Glucose
   114
   117
   127
   111
   112
   113
   Other labs: PT / PTT / INR:15.9/34.4/1.4, ALT / AST:66/118, Alk Phos /
   T Bili:210/5.2, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:4.2 g/dL, LDH:254 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   Encephalopathy, acute renal failure
   ENCEPHALOPATHY -- hepatic and uremic.  Progressive.  Lactulose, may
   require rectal.
   ABDOMINAL PAIN -- likely due to ascites and distention from gas.
   Monitor.  Consider NGT for decompression.
   GI BLEED -- clinically stable.  Monitor stool for guiac, daily Hct.
   D/c octreotide.
   PORTAL VEIN THROMBOSIS --   no plans for intervention or treatment.
   CIRRHOSIS -- progressive liver failure.
   Hepatic INFILTRATIVE PROCESS -- presumed hepatocellular CA.
   DYSPNEA -- hepatopulmonary syndrome.
   COPD -- no active disease.
   DISPOSITION -- need to establish direction and goals of medical care.
   Currently DNR/DNI.  Discussion for CMO in progress with Drs. [**Last Name (STitle) 274**] and
   [**Doctor Last Name 4704**]   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2193-8-7**] 04:09 PM
   18 Gauge - [**2193-8-10**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-08-13 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Made [** 617**] yesterday. Agreeable with help of family, primary care doctor,
   and GI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-12**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-8-13**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-13**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 100 (84 - 114) bpm
   BP: 125/69(98) {96/19(42) - 125/81(98)} mmHg
   RR: 10 (6 - 17) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.6 kg (admission): 90.8 kg
             Total In:
                                                                    866 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    866 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    164 mL
   Urine:
                                                                    390 mL
                                                                    164 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    376 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   9.7 g/dL
   113 mg/dL
   3.4 mg/dL
   14 mEq/L
   3.9 mEq/L
   75 mg/dL
   103 mEq/L
   134 mEq/L
   29.5 %
   17.1 K/uL
        [image002.jpg]
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
                             [**2193-8-9**]  04:14 PM
                             [**2193-8-10**]  03:12 AM
                             [**2193-8-11**]  04:14 AM
                             [**2193-8-11**]  05:30 AM
                             [**2193-8-11**]  04:38 PM
                             [**2193-8-12**]  05:07 AM
   WBC
   16.3
   14.8
   9.3
   13.6
   17.1
   Hct
   33
   31.5
   30.6
   32.0
   30.8
   31.2
   27.1
   28.6
   29.5
   Plt
   [**Telephone/Fax (3) 4703**]51
   279
   Cr
   1.7
   1.7
   2.4
   3.0
   3.4
   3.4
   TCO2
   22
   Glucose
   114
   117
   127
   111
   112
   113
   Other labs: PT / PTT / INR:15.9/34.4/1.4, ALT / AST:66/118, Alk Phos /
   T Bili:210/5.2, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:4.2 g/dL, LDH:254 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   57 y .o. M with hepatitis B cirrhosis c/b portal vein thrombosis ,
   encephalopathy, and varices, COPD, and hypertension, transferred from
   [**Hospital6 1082**] for management of his upper and lower GI
   bleeding. EGD on [**8-7**] shows portal hypertensive gastropathy. Now with
   end stage liver disease [**1-19**] HCC, and worsening renal function.
   # Hepatocellular carcinoma: No treatment options currently available.
   Clinical worsening over the weekend.
   -palliative care
would like to be discharged to Mother
s home, but per
   nurse mother states she is unable to care for him and thought he would
   go to Nursing home.
   -patient made [**Month/Day (2) 617**] yesterday
   -pain control: was on MS Contin but now not taking PO.  Continue
   morphine for breakthrough pain.  Continues to be uncomfortable but did
   not want therapeutic paracentesis yesterday.  Will ask again today.
   # Hypertensive gastropathy: EGD showed esophageal varices and ulcers
   most likely secondary to hypertensive gastropathy.   Bleeding is of
   uncertain etiology.  Possibly from esophageal varices.  Per GI, if
   continues to bleed, consider banding.  TIPS and shunt are not
   feasible.  HCT now stable, no sign of bleeding.
     -d/c octreotide gtt
   -PPI 40mg IV bid until tolerating po
   -continue Ceftriaxone 1g qd for SBP primary prophylaxis, has increasing
   WBC but no obvious source.  Concern for SBP despite lack of fever and
   diagnostic tap last week without sign of SBP.  Will monitor today and
   consider broadening coverage.
   -          large bore PIVs
   # Acute Renal Failure: Rapidly increasing creatinine (0.4 on admission,
   up to 3.4 this morning.  It appeared that he wasn
t making urine last
   night, but actually his foley had become disconnected. Now Most likely
   secondary to hepato-renal syndrome vs. pre-renal vs. compartment
   syndome from ascites.  Albumin given with minimal improvement.
   -patient declines therapeutic paracentesis.
   - avoid nephrotoxins
   - continue Midodrine 7.5 TID
   # Hepatitis B Cirrhosis: c/b portal vein thrombosis without
   intervention. RUQ US showed cirrhotic liver, occluded portal vein.
   Has multpiple stigmata of cirrhosis including palmar erythema, caput
   medusae, telangietasias.
    - appreciate hepatology and GI recs: treatment of portal vein
   thrombosis is too risky
   -  worsening encephalopathy.  Monitor neuro status.  Family meeting.
   # Pain control:
   -f/u Per palliative care recs, while taking PO was started on MS
   Contin, Reglan, Haldol, and Morphine elixir for breakthrough pain.  Now
   on IV morphine.
   # COPD: followed by Dr. [**Last Name (STitle) 2045**].
   - continue albuterol, advair, atrovent, Fluticasone-Salmeterol,
   tiotropium bromide.
   - continue supplemental oxygen if comfortable
   # HTN: currently normotensive - hold antihypertensives
   # IBS: followed by Dr. [**First Name (STitle) 1604**] - continue dicyclomine
   # Depression:
   - continue Mirtazapine, Ativan as needed for anxiety
   # FEN: Advance diet to clear liquids / replete lytes prn
   # Access: 3 20 gauge PIVs, 16 gauge PIV, 18 gauge PIV. Rectal tube,
   Foley. Patient uncomfortable with foley.  Will consider discontinuing
   foley depending [**First Name (STitle) 617**] status decision today. Monitor strict Is/Os.
   # PPx: IV PPI gtt / hold heparin SQ in GI bleed / pneumoboots /
   lactulose
   # Code: DNR/DNI confirmed with patient and proxy. [**Name (NI) 617**]
    # Dispo: [**Name (NI) 617**], hopefully to nursing home with hospice.
   # Comm: with patient; Mother [**Name (NI) **] [**Name (NI) 4530**] [**Telephone/Fax (1) 4531**] (per pt, his
   HCP); Sister [**Name (NI) **] [**Name (NI) 4604**] [**Telephone/Fax (1) 4585**]
   ICU Care
   Lines:
   22 Gauge - [**2193-8-13**] 12:54 AM
   Code status: Comfort measures only

2193-08-13 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Appears somewhat anxious, restless at times.
   Denies pain.
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-12**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-8-13**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-19**] Minimal
   Pain location: abdominal
   Flowsheet Data as of  [**2193-8-13**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 91 (86 - 115) bpm
   BP: 124/76(86) {96/19(42) - 125/81(98)} mmHg
   RR: 10 (7 - 17) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.6 kg (admission): 90.8 kg
             Total In:
                                                                    866 mL
                                                                    108 mL
   PO:
             TF:
   IVF:
                                                                    866 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    264 mL
   Urine:
                                                                    390 mL
                                                                    264 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    376 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 87%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: diffuse, No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   279 K/uL
   113 mg/dL
   3.4 mg/dL
   14 mEq/L
   3.9 mEq/L
   75 mg/dL
   103 mEq/L
   134 mEq/L
   29.5 %
   17.1 K/uL
        [image002.jpg]
                             [**2193-8-8**]  09:51 AM
                             [**2193-8-8**]  04:52 PM
                             [**2193-8-8**]  10:10 PM
                             [**2193-8-9**]  04:50 AM
                             [**2193-8-9**]  04:14 PM
                             [**2193-8-10**]  03:12 AM
                             [**2193-8-11**]  04:14 AM
                             [**2193-8-11**]  05:30 AM
                             [**2193-8-11**]  04:38 PM
                             [**2193-8-12**]  05:07 AM
   WBC
   16.3
   14.8
   9.3
   13.6
   17.1
   Hct
   33
   31.5
   30.6
   32.0
   30.8
   31.2
   27.1
   28.6
   29.5
   Plt
   [**Telephone/Fax (3) 4703**]51
   279
   Cr
   1.7
   1.7
   2.4
   3.0
   3.4
   3.4
   TCO2
   22
   Glucose
   114
   117
   127
   111
   112
   113
   Other labs: PT / PTT / INR:15.9/34.4/1.4, ALT / AST:66/118, Alk Phos /
   T Bili:210/5.2, Amylase / Lipase:52/73, Differential-Neuts:83.2 %,
   Lymph:10.6 %, Mono:5.0 %, Eos:0.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:4.2 g/dL, LDH:254 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   ENCEPHALOPATHY
 hepatic, uremic.
   ABDOMINAL PAIN
 improved control.  Attributed to ascites, portal vein
   thrombosis, and infiltrative liver process.  Continue pain management.
   ACUTE RENAL FAILURE
 likely hepatorenal.  No further intervention.
   CIRROSIS
 progressive liver failure.  No furtehr interventionl
   PORTAL VEIN THROMBOSIS
 No further intervention.
   CMO
 family present.  As per pt. and family request, arranging for
   transfer to hospice care near home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-8-13**] 12:54 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill